US04397855
A solution of cinnamoyl chloride (3.32 g) in methylene chloride (25 ml) is added dropwise to a solution of methyl, α,α-dimethyl-1-piperazinepentanoate (4.56 g) in methylene chloride (25 ml) containing triethylamine (2.0 g) and the mixture is stirred overnight at room temperature. The solution is washed with water, dried, and distilled to yield the product methyl α,α-dimethyl-4-(1-oxo-3-phenyl-2-propenyl)-1-piperazine pentanoate, mp 76° following crystallization from isopropyl ether.

reactant | cinnamoyl chloride | 3.32 g | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
reactant | α,α-dimethyl-1-piperazinepentanoate | 4.56 g | CC(C(=O)[O-])(CCCN1CCNCC1)C
reactant | triethylamine | 2.0 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | methyl α,α-dimethyl-4-(1-oxo-3-phenyl-2-propenyl)-1-piperazine pentanoate | CC(C(=O)OC)(CCCN1CCN(CC1)C(C=CC1=CC=CC=C1)=O)C | C21H30N2O3
